US08871796B2
N-[2-(3-{1-ethyl-4-(phenylethynyl)-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide
A solution of N-[2-(3-{1-ethyl-4-iodo-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide (51.2 mg, 0.077 mmol) and pyridine (387 μL) was treated with copper (I) phenylacetylide (12 mg, 0.085 mmol), degassed with argon, sealed in a microwave vial and heated to 100° C. via a block heater. After 2 days the resulting brown solution was cooled, diluted with EtOAc, washed with 50% sat. aq. NaHCO3 2×, sat. aq NaHCO3, dried (MgSO4) and concentrated to afford a black residue purified via MPLC, 10 g silica, 5-30% EtOAc in heptanes to afford a light yellow solid: MS: cal'd 636 (MH+), exp 636 (MH+).

reactant | N-[2-(3-{1-ethyl-4-iodo-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide | 0.077 mmol, 51.2 mg | C(C)N1N=C(C(=C1OC1=CC=C(C=C1)C(F)(F)F)I)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H22F6IN3O3S
catalyst | copper (I) phenylacetylide | 0.085 mmol, 12 mg | [C-]#CC1=CC=CC=C1.[Cu+]
solvent | pyridine | 387 μL | N1=CC=CC=C1 | C5H5N
product | N-[2-(3-{1-ethyl-4-(phenylethynyl)-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide | C(C)N1N=C(C(=C1OC1=CC=C(C=C1)C(F)(F)F)C#CC1=CC=CC=C1)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C31H27F6N3O3S
